US08076481B2
Preparation of 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid
To a flask was added methyl 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]benzoate (1.0 eq) and N-methylpyrrolidinone (7.6 vols). The contents of the flask were cooled to 10° C. Water (3.9 vols) was added, and the mixture then cooled to approximately −15° C. Sodium hydroxide (1.5 eq) was dissolved in water (2.3 vols), and the sodium hydroxide solution added slowly to the flask over one hour, maintaining the reaction temperature below −10° C. The sodium hydroxide was line washed with water (0.5 vols). The reaction mixture was held for approximately 4 hours. Acetic acid (1.25 eq) was added to the mixture at −10° C. The mixture was allowed to warm to 5° C. Acetic acid (2.37 eq) was added to the mixture, the acetic acid line washed with water (3.5 vols) and the mixture allowed to warm to 22° C. The mixture was seeded, then water (5 vols) was added to the mixture. 2N hydrochloric acid (1.5 eq) was added to the mixture until pH4 was reached. The reaction mixture was stirred for at least 14 hours, then cooled to 10° C., stirred for 1 hour at 10° C. The mixture was filtered. The solid was slurry washed with water (3×2.5 vol). The isolated solid was dried at 25° C. under vacuum to afford the title compound as an off white solid.

reactant | methyl 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]benzoate | 1.0 eq | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C | C20H23N3O6
reactant | Sodium hydroxide | 1.5 eq | [OH-].[Na+]
reactant | Acetic acid | 1.25 eq | C(C)(=O)O | C2H4O2
reactant | Acetic acid | 2.37 eq | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2N, 1.5 eq | Cl | ClH
solvent | water | O | H2O
solvent | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(1S)-2-methoxy-1-methylethoxy]benzoic acid | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C | C19H21N3O6
